US08877970B2
4-iodo-N-(5-sulfamoyl-1,3,4-thiadiazol-2-yl)benzamide
To a solution of 5-amino-1,3,4-thiadiazole-2-sulfonamide (0.133 g, 0.50 mmol) in pyridine (5.0 mL) was added 4-iodobenzoyl chloride (0.162 g, 0.75 mmol). The reaction mixture was stirred at room temperature for overnight under nitrogen. Solvent was concentrated and water (60 mL) was added the mixture. The precipitated sulfonamide was filtered and dried over vacuum to give desired compound (27.3 mg, 13%) as a white solid.

reactant | 5-amino-1,3,4-thiadiazole-2-sulfonamide | 0.50 mmol, 0.133 g | NC1=NN=C(S1)S(=O)(=O)N | C2H4N4O2S2
reactant | 4-iodobenzoyl chloride | 0.75 mmol, 0.162 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
product | 4-iodo-N-(5-sulfamoyl-1,3,4-thiadiazol-2-yl)benzamide | 27.3 mg, 13% | IC1=CC=C(C(=O)NC=2SC(=NN2)S(N)(=O)=O)C=C1 | C9H7IN4O3S2
